US09382188B2
step 2) 2′-fluoro-2-(1-fluoro-3,3-dimethylbutyl)-5′-methoxybiphenyl-4-ol
To a solution of 2′-fluoro-2-(1-fluoro-3,3-dimethylbutyl)-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl (120 mg) in methanol (5 mL) was added 10% palladium-carbon (100 mg) and, under a hydrogen atmosphere, the mixture was stirred at 70° C. for 17 hr. The reaction mixture was filtered, and the solvent of the filtrate was evaporated under reduced pressure to give a crude product of the title compound as a colorless oil. This compound was used for the next step without further purification.

reactant | 2′-fluoro-2-(1-fluoro-3,3-dimethylbutyl)-5′-methoxy-4-((4-methoxybenzyl)oxy)biphenyl | 120 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C(CC(C)(C)C)F | C27H30F2O3
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 2′-fluoro-2-(1-fluoro-3,3-dimethylbutyl)-5′-methoxybiphenyl-4-ol | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)C(CC(C)(C)C)F | C19H22F2O2
